US07241791B2
4-(1-cyclohexyl-6-hydroxy-1H-indazol-3-yl)benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.164 g, 2 mmol) and cyclohexylhydrazine hydrochloride (0.150 g, 1.0 mmol) to give 0.040 g of product as a white solid

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 2 mmol, 0.164 g | C(C)(=O)[O-].[Na+]
reactant | cyclohexylhydrazine hydrochloride | 1.0 mmol, 0.150 g | Cl.C1(CCCCC1)NN
product | 4-(1-cyclohexyl-6-hydroxy-1H-indazol-3-yl)benzene-1,3-diol | 0.040 g | C1(CCCCC1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C19H20N2O3
